US04609670
A solution 2.24 g (0.01 mol) of 1-(4-methylphenyl)-1-oxo-2-bromopropane and 0.9 g (0.011 mol) of 1-methylimidazole in 50 ml of diethyl ether was stirred at room for approximately 18 hours. The reaction solvent was decanted, and the residue was washed with diethyl ether and dissolved in acetonitrile. The resulting solution was diluted with diethyl ether and the precipitated solid was collected by filtration. The solid was recrystallized from acetonitrile/diethyl ether to afford 0.33 g of 1-methyl-3-[1-methyl-2-(4-methylphenyl)-2-oxoethyl]-1H-imidazolium bromide as a solid. (11% yield) mp=175°-177° C.

reactant | 1-(4-methylphenyl)-1-oxo-2-bromopropane | 0.01 mol, 2.24 g | CC1=CC=C(C=C1)C(C(C)Br)=O | C10H11BrO
reactant | 1-methylimidazole | 0.011 mol, 0.9 g | CN1C=NC=C1 | C4H6N2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 1-methyl-3-[1-methyl-2-(4-methylphenyl)-2-oxoethyl]-1H-imidazolium bromide | 0.33 g, 11% yield | [Br-].C[NH+]1CN(C=C1)C(C(=O)C1=CC=C(C=C1)C)C | InChI=1S/C14H18N2O.BrH/c1-11-4-6-13(7-5-11)14(17)12(2)16-9-8-15(3)10-16;/h4-9,12H,10H2,1-3H3;1H
